US07276511B2
Synthesis of 5-(3,4-dichlorophenyl)-imidazolidine-2,4-dione
3,4-Dichlorobenzaldehyde (500 g), potassium cyanide (279 g), and ammonium carbonate (824 g) were dissolved in a solvent mixture of ethanol (1.25 L) and water (1.25 L), followed by stirring at an internal temperature of 60 to 65° C. for 1 hour. The reaction mixture was left to cool to room temperature, and ethanol was evaporated under reduced pressure. Water was added to the residue, followed by filtration and drying, to thereby give the title compound (900 g). The title compound was used in the next step without further purification.

reactant | 3,4-Dichlorobenzaldehyde | 500 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | potassium cyanide | 279 g | [C-]#N.[K+]
reactant | ammonium carbonate | 824 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol | 1.25 L | C(C)O | C2H6O
solvent | water | 1.25 L | O | H2O
product | 5-(3,4-dichlorophenyl)-imidazolidine-2,4-dione | 900 g | ClC=1C=C(C=CC1Cl)C1C(NC(N1)=O)=O | C9H6Cl2N2O2
